US08802661B2
Preparation of methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(2-methoxy-2-oxoethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate. Intermediate 23
To a solution of methyl 2-(2-aminoethylamino)acetate (33.5 mg, 0.254 mmol), Hunig'sBase (0.089 mL, 0.507 mmol) and DMAP (20.66 mg, 0.169 mmol) in DCM (1.5 mL) was added methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (100 mg, 0.169 mmol) in DCM (1.5 mL). The reaction mixture was stirred at 20° C. for three hours. LCMS indicated the formation of desired product. The reaction mixture was quenched with distilled water, extracted with DCM (3×4 mL). All the extracts were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure to provide the title compound as a white solid (90 mg, 76%). LCMS: m/e 713.45 (M−H)−, 2.75 min (method 1).

reactant | methyl 2-(2-aminoethylamino)acetate | 0.254 mmol, 33.5 mg | NCCNCC(=O)OC | C5H12N2O2
reactant | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(chlorocarbonyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.169 mmol, 100 mg | ClC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C | C38H51ClO3
catalyst | DMAP | 0.169 mmol, 20.66 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.5 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-(2-(2-methoxy-2-oxoethylamino)ethylcarbamoyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | COC(CNCCNC(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC)C=C1)C)[C@@H](CC2)C(=C)C)=O | C43H62N2O5
